Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
R sided parasthesias
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year old man with history of hypertension and 
diabetes who presents with acute onset right sided paresthesias 
3 days prior to presentation. 

The patient reports that he was in his usual state of health 
until ___, while he was on holiday with his wife in ___ 
___.  At 9 ___, he experienced acute onset right sided 
paresthesias, which manifested as sensation of needles, located 
over his right face, arm, and leg, but worst in his right hand 
and fingers.  He did not experience any pain, numbness, or 
weakness, however did feel that his right hand was very clumsy 
and dropping items.  When he walked he felt like his right leg 
would give way and get pulled towards the right, however he was 
able to catch himself prior to falling.

For the next 3 days, he has continued to experience these 
symptoms without any significant change.  They are constant, and 
do not worsen with any particular maneuvers or positional 
changes.  He arrived home yesterday, and presented to the ED 
today for further evaluation.

 
Past Medical History:
Hypertension
Type 2 diabetes
Hyperlipidemia
Renal insufficiency (last Cr 1.2)
Hepatitis B
BPH
Adrenal nodule
Plantar fasciitis
 
Social History:
___
Family History:
No family history of stroke or other neurologic condition.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x3. Able to relate history 
without difficulty. Attentive, able to perform serial 7's 
without difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI, right beating 
nystagmus on far right gaze which extinguishes after ___ beats. 
Normal saccades. VFF to confrontation. Fundoscopic exam revealed 
no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense throughout. Mild decrease in vibration at the 
toes bilaterally. Does endorse some hyperesthesia to pinprick 
over the right upper extremity. No extinction to DSS. No 
agraphesthesia or other cortical signs.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Mild intention tremor bilaterally. Subtle 
dysmetria of the right upper extremity on FNF with overshoot on 
mirror movements, as well as dysmetria on right lower extremity 
on HKS.

-Gait: Good initiation. Narrow-based, normal stride length. 
Veers slightly to the right, with increased arm swing on right. 
Right-ward ataxia more prominent on tandem gait, with pt taking 
multiple steps with right leg laterally to balance himself. 
Romberg absent.

DISCHARGE PHYSICAL EXAM:
Mild decreased sensation to LT and PP over RUE, mild intention 
tremor b/l, subtle dysmetria on FNF over RUE and HKS over RLE. 
Gait appears intact with slight veering to right
 
Pertinent Results:
___ 05:50AM BLOOD WBC-5.0 RBC-4.36* Hgb-13.6* Hct-39.9* 
MCV-92 MCH-31.2 MCHC-34.1 RDW-12.6 RDWSD-42.3 Plt ___
___ 04:55PM BLOOD WBC-6.7 RBC-4.39* Hgb-13.7 Hct-40.2 
MCV-92 MCH-31.2 MCHC-34.1 RDW-12.6 RDWSD-41.7 Plt ___
___ 04:55PM BLOOD Neuts-62.8 ___ Monos-5.8 Eos-2.2 
Baso-0.3 Im ___ AbsNeut-4.20 AbsLymp-1.89 AbsMono-0.39 
AbsEos-0.15 AbsBaso-0.02
___ 05:50AM BLOOD ___ PTT-29.7 ___
___ 05:50AM BLOOD Glucose-113* UreaN-24* Creat-1.4* Na-141 
K-4.0 Cl-105 HCO3-25 AnGap-15
___ 04:55PM BLOOD Glucose-80 UreaN-26* Creat-1.6* Na-140 
K-4.0 Cl-104 HCO3-22 AnGap-18
___ 04:55PM BLOOD ALT-18 AST-19 AlkPhos-49 TotBili-0.4
___ 04:55PM BLOOD cTropnT-<0.01
___ 05:50AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.1 Cholest-146
___ 05:50AM BLOOD %HbA1c-6.5* eAG-140*
___:50AM BLOOD Triglyc-159* HDL-29 CHOL/HD-5.0 
LDLcalc-85
___ 05:50AM BLOOD TSH-1.8
___ 04:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ H&N
Noncontrast CT Head: Hypodensity in the left thalamus suggestive 
of 
infarction. This finding is likely chronic in nature, although 
MR could be 
considered to determine chronicity. 
  
CTA Head/Neck: No evidence of aneurysm or high-grade stenosis of 
the major 
vessels of the head neck. 

___ Head w/o
1. Left thalamic subacute infarct. 
2. Chronic small vessel ischemic disease. 

 
Brief Hospital Course:
Mr. ___ was hospitalized at ___ due to onset of R sided 
parasthesias, subjective RLE weakness, and R sided 
dyscoordination 3 days prior to presentation. He was evaluated 
by Stroke team and was continued on his home aspirin and 
atorvastatin as well as other home medications. He was evaluated 
with CT scan which showed early subacute L thalamic stroke which 
likely explained symptoms. This finding was confirmed on MRI. He 
was evaluated by ___ and determined to be candidate for 
outpatient ___. He was discharged home with Neurology followup 
due to appearing clinically stable.

Transition Issues:
-Pt will need to continue taking Aspirin and Atorvastatin, 
encouraged compliance
-Pt will need to work with outpatient ___ to resolve functional 
impairments
-Pt will need to follow up with Neurology in near future
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 25 mg PO DAILY 
2. GlipiZIDE 10 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Aspirin 81 mg PO DAILY 
6. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
7. Atorvastatin 40 mg PO QPM 
8. Januvia (SITagliptin) 50 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Carvedilol 25 mg PO DAILY  
4.  GlipiZIDE 10 mg PO DAILY  
5.  Januvia (SITagliptin) 50 mg oral DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
9.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of R sided numbness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high blood pressure
high cholesterol
diabetes

Please take your medications as prescribed. Please try not to 
take any unknown medications without confirming their potential 
side effects.
Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___